US06740647B1
f) 2-(N-BOC-Aminomethyl)-4-methylthiazole-5-thioamide [sic]
2-(N-BOC-Aminomethyl)-5-cyano-4-methylthiazole [sic] (7.5 g, 29.61 mmol) was dissolved in pyridine (30 ml), and triethylamine (27 ml) was added. The solution was saturated with hydrogen sulfide at 0° C. and then left to stand for 48 hours at room temperature. The solvent was subsequently removed on a rotary evaporator, and the residue was taken up in ethyl acetate, washed with 20% strength potassium hydrogen sulfate solution and dried over magnesium sulfate. The solvent was removed on a rotary evaporator, and the crude product was dissolved in dichloromethane and precipitated with petroleum ether. The product which had precipitated was filtered off with suction and dried in a vacuum drying oven [lacuna] 40° C. Yield: 7.1 g (24.7 mmol, 83%).

reactant | 2-(N-BOC-Aminomethyl)-5-cyano-4-methylthiazole | 29.61 mmol, 7.5 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C)C#N | C11H15N3O2S
reactant | triethylamine | 27 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(N-BOC-Aminomethyl)-4-methylthiazole-5-thioamide | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C)C(N)=S | C11H17N3O2S2
